US06313122B1
B. 2-[(4-tert-Butylbenzoyl)amino]-N-(4-methoxyphenyl)-6-methylbenzamide
Using the procedure described in Example 93, Part B, N-(4-methoxyphenyl)-2-nitro-6-methylbenzamide (1.05 mmol) was reduced to the corresponding amine. Using the procedure described in Example 93, Part A, the amine was reacted with 4-tert-butylbenzoyl chloride (1.05 mmol) to yield 72 mg (17%) of the title compound.

reactant | N-(4-methoxyphenyl)-2-nitro-6-methylbenzamide | 1.05 mmol | COC1=CC=C(C=C1)NC(C1=C(C=CC=C1C)[N+](=O)[O-])=O | C15H14N2O4
reactant | 4-tert-butylbenzoyl chloride | 1.05 mmol | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
product | 2-[(4-tert-Butylbenzoyl)amino]-N-(4-methoxyphenyl)-6-methylbenzamide | 72 mg, 17% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C(=CC=C2)C)C=C1 | C26H28N2O3
